US20010020034A1
(R)-3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(3-hydroxy-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and (R)-1-(4-amino-butyl)-pyrrolidin-3-ol by the procedure analogous to Example 6. HPLC ret. time: 3.2 minutes. 1H NMR (400 MHz, CD3OD) δ 7.19 (dd, 1H, J=6.0, 9.2 Hz), 7.04 (dd, 1 H, J=6.0, 10 Hz), 5.45 (s, 2H), 4.34 (m, 1H), 3.23 (m, 2H), 2.86 (dd, 1H, J=6.0, 10.4 Hz), 2.78 (m, 1H), 2.65-2.54 (m, 4H), 2.25 (s, 3H), 2.14 (m, 1H), 1.73 (m, 1H), 1.56 (m, 4H) ppm; MS (APCl, m/z): 484 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | (R)-1-(4-amino-butyl)-pyrrolidin-3-ol | NCCCCN1C[C@@H](CC1)O | C8H18N2O
product | (R)-3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(3-hydroxy-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2C[C@@H](CC2)O)C=C(C(=C1)C)F | C21H27F2N5O4S
